US07446117B2
(1-Ethyl-1H-1,2,4-triazol-5-yl)methylammonium acetate
A mixture of 1-ethyl-1H-1,2,4-triazole-5-carbaldehyde oxime (6.17 g, 44 mmol), 10% palladium hydroxide on carbon (2.9 g) acetic acid (125 mL) and ethanol (125 mL) were stirred under an atmosphere of hydrogen for 14 hours. The reaction mixture was filtered and concentrated in vacuo to give the title compound (7.7 g) 1H-NMR (d6-DMSO) δ 1.32 (3H, t, J=7 Hz), 1.89 (3H, s), 3.89 (2H, br), 4.17 (2H, q, J=7 Hz), 7.80 (1H, s).

reactant | 1-ethyl-1H-1,2,4-triazole-5-carbaldehyde oxime | 44 mmol, 6.17 g | C(C)N1N=CN=C1C=NO | C5H8N4O
reactant | ethanol | 125 mL | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 125 mL, 2.9 g | [OH-].[OH-].[Pd+2]
product | (1-Ethyl-1H-1,2,4-triazol-5-yl)methylammonium acetate | 7.7 g | C(C)(=O)[O-].C(C)N1N=CN=C1C[NH3+] | InChI=1S/C5H10N4.C2H4O2/c1-2-9-5(3-6)7-4-8-9;1-2(3)4/h4H,2-3,6H2,1H3;1H3,(H,3,4)
